US08097620B2
Method 18. Preparation of 2-(5-Hydroxy-8-methyl-7-oxo-3-(piperidin-1-yl)-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetic acid
Methyl 5-hydroxy-8-methyl-7-oxo-3-(piperidin-1-yl)-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate. The title compound is prepared by reaction of methyl 3-chloro-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate with piperidine according to literature procedures. Alternatively, the title compound is prepared by reaction of methyl 3-chloro-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate with piperidine according to Method 7(a).

reactant | Methyl 5-hydroxy-8-methyl-7-oxo-3-(piperidin-1-yl)-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate | OC1=C(C(N(C=2N=NC(=CC21)N2CCCCC2)C)=O)C(=O)OC | C15H18N4O4
reactant | methyl 3-chloro-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxylate | ClC1=CC2=C(N=N1)N(C(C(=C2O)C(=O)OC)=O)C | C10H8ClN3O4
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(5-Hydroxy-8-methyl-7-oxo-3-(piperidin-1-yl)-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetic acid | OC1=C(C(N(C=2N=NC(=CC21)N2CCCCC2)C)=O)C(=O)NCC(=O)O | C16H19N5O5
